US08445509B2
Production of N-[3-fluoro-6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of N-[6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (121.6 mg, 0.341 mmol) in acetonitrile (0.5 mL)/tetrahydrofuran (0.5 mL) was added 1-fluoro-2,6-dichloropyridine triflate (129 mg, 0.409 mmol), and the mixture was stirred at room temperature for 2 hr. Tetrahydrofuran, ethyl acetate and 1N hydrochloric acid were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=1/2→1/1) to give the title compound (15.2 mg, 12%) as a white solid.

reactant | N-[6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.341 mmol, 121.6 mg | FC1=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC(=C1)[N+](=O)[O-] | C17H13FN4O4
reactant | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
reactant | 1-fluoro-2,6-dichloropyridine triflate | 0.409 mmol, 129 mg | OS(=O)(=O)C(F)(F)F.FN1C(C=CC=C1Cl)Cl
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-fluoro-6-(2-fluoro-4-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 15.2 mg, 12% | FC1=C(N=C2N1C=C(C=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])F)NC(=O)C2CC2 | C17H12F2N4O4
